US07968552B2
Trifluoromethanesulfonic anhydride was dropwise added, under ice-cooling, to a mixture of 4-hydroxy-3,5-dimethylbenzonitrile, pyridine and dichloromethane, followed by stirring at room temperature for 2 hours to obtain 4-cyano-2,6-dimethylphenyl trifluoromethanesulfonate. In an atmosphere of nitrogen, a mixture of 4-cyano-2,6-dimethylphenyl trifluoromethanesulfonate, (3-formylphenyl)boronic acid, palladium acetate, dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine, tripotassium phosphate, toluene and water was stirred at room temperature for 6 hours to obtain 3′-formyl-2,6-dimethylbiphenyl-4-carbonitrile.

reactant | 4-cyano-2,6-dimethylphenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1C)C#N)C)(F)F | C10H8F3NO3S
reactant | (3-formylphenyl)boronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | tripotassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3′-formyl-2,6-dimethylbiphenyl-4-carbonitrile | C(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1C)C#N)C | C16H13NO
